US08937092B2
To a stirred solution of ethyl 2-(4-cyanophenyl)acetate (0.8 g, 4.101 mmol) in anhydrous dimethylformamide were added 60% sodium hydride (180 mg, 4.511 mol) and Iodo methane were added after 10 min with an ice bath. The reaction mixture was stirred for 1 h hours, quenched with water and extracted with ethylacetate which is washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filterate was concentrated under reduced pressure. The residue was purified by column chromatography. Ethyl 2-(4-cyanophenyl)propanoate (453 mg) was obtained as 48%

reactant | ethyl 2-(4-cyanophenyl)acetate | 4.101 mmol, 0.8 g | C(#N)C1=CC=C(C=C1)CC(=O)OCC | C11H11NO2
reactant | sodium hydride | 4.511 mol, 180 mg | [H-].[Na+]
reactant | Iodo methane | IC | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl 2-(4-cyanophenyl)propanoate | 453 mg | C(#N)C1=CC=C(C=C1)C(C(=O)OCC)C | C12H13NO2
